US09383621B2
Step 2: 1,4-Bis(2-ethylhexyloxy)-2-nitrobenzene
1,4-Bis(2-ethylhexyloxy)benzene (50.2 g, 0.150 mol) is dissolved in chloroform (150 ml) and cooled to 0° C. Nitric acid (70%, 17.0 g, 0.190 mol) is added dropwise at 0-3° C. and the reaction stirred whilst monitoring progress by HPLC. After 60 minutes, water (50 ml) is added and the organic layer separated, dried (MgSO4) and evaporated to give the title compound as a yellow oil (56.9 g, 100%). The material is used without further purification.

reactant | 1,4-Bis(2-ethylhexyloxy)benzene | 0.150 mol, 50.2 g | C(C)C(COC1=CC=C(C=C1)OCC(CCCC)CC)CCCC | C22H38O2
reactant | Nitric acid | 0.190 mol, 17.0 g | [N+](=O)(O)[O-] | HNO3
reactant | water | 50 ml | O | H2O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,4-Bis(2-ethylhexyloxy)-2-nitrobenzene | 56.9 g, 100% | C(C)C(COC1=C(C=C(C=C1)OCC(CCCC)CC)[N+](=O)[O-])CCCC | C22H37NO4
